US08193187B2
7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 12-1)
A mixture of 7-(2-methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 11, 1.58 g, 3.18 mmol), methyl iodide (400 μL, 6.43 mmol), and cesium carbonate (2.24 g, 6.87 mmol) was suspended in anhydrous N,N-dimethylformamide (30 mL) and stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate (150 mL), washed with water (150 mL) and saturated brine (150 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (1.38 g) as a pale yellow amorphous product. (Yield 85%)

reactant | 7-(2-methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | COC1=C(C=CC(=C1)OCOC)C1=CC=C2NC(C(NC2=C1COC(=O)C=1SC(=CC1)C)=O)(C)C | C26H28N2O6S
reactant | methyl iodide | 6.43 mmol, 400 μL | CI | CH3I
reactant | cesium carbonate | 6.87 mmol, 2.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-Methoxy-4-methoxymethoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.38 g, Yield 85% | COC1=C(C=CC(=C1)OCOC)C1=CC=C2NC(C(N(C2=C1COC(=O)C=1SC(=CC1)C)C)=O)(C)C | C27H30N2O6S
